US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-(3-hydroxypropylthio)phenyl]-5-methylpyrazole-4-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (3.9 g) and 5-amino-2-(3-hydroxypropylthio)benzonitrile (2.9 g), the title compound (1.5 g) was obtained, melting point: 165° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 3.9 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-(3-hydroxypropylthio)benzonitrile | 2.9 g | NC=1C=CC(=C(C#N)C1)SCCCO | C10H12N2OS
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-(3-hydroxypropylthio)phenyl]-5-methylpyrazole-4-carboxamide | 1.5 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)SCCCO)C#N | C21H19ClN4O2S
